US04564640
3,5-dimethyl-4-nitroanisole
3,5-dimethyl-4-nitrophenol (33.43 g), methyl p-toluene sulfonate (40.97 g) and K2CO3 (31.79 g) are stirred at reflux in 200 ml of acetone for four and one half hours and then stirred at R.T. overnight. The reaction mixture is filtered to give a dark amber filtrate. The filtrate is concentrated in vacuo to a yellowish brown solid which is dissolved in ethyl acetate washed with saturated aqueous sodium chloride, dried and concentrated in vacuo. The concentrate is distilled (87°-104° C./0.10 mm) to give a yellow waxy looking solid. The solid is dissolved in hot ethanol and recrystallized, M.P. 50°-52° C.

reactant | 3,5-dimethyl-4-nitrophenol | 33.43 g | CC=1C=C(C=C(C1[N+](=O)[O-])C)O | C8H9NO3
reactant | methyl p-toluene sulfonate | 40.97 g | CC=1C=CC(=CC1)S(=O)(=O)C | C8H10O2S
reactant | K2CO3 | 31.79 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 3,5-dimethyl-4-nitroanisole | CC=1C=C(C=C(C1[N+](=O)[O-])C)OC | C9H11NO3
